US07557114B2
(a) 5-(3-Methoxy-azetidin-1-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl Ester
Prepared in analogy to Example A3(d) from 5-iodo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester (Example A38(b)) and 3-methoxy-azetidine hydrochloride. Orange oil. MS (m/e): 305.4 ([M+H]+, 100%).

reactant | 5-iodo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)I | C13H16INO2
reactant | 3-methoxy-azetidine hydrochloride | Cl.COC1CNC1
product | 5-(3-Methoxy-azetidin-1-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl Ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)N1CC(C1)OC | C17H24N2O3
